US09428512B2
Intermediate 15: 1-iso-Propyl-4-(pent-4-yn-1-yl)piperazine
A mixture of 1-(1-methylethyl)piperazine (6 g, 46.8 mmol), 5-chloro-1-pentyne (4.91 mL, 46.8 mmol) and sodium bicarbonate (3.93 g, 46.8 mmol) in N,N-dimethylformamide (75 mL) was heated at 80° C. overnight. The reaction mixture was cooled to room temperature then partitioned between ether (100 mL) and water (100 mL). The organic phase was washed with brine (25 mL) then dried using a hydrophobic frit and evaporated. The crude material was purified on a 50 g SCX cartridge (preconditioned with MeOH) eluted with MeOH and flushed with 2M NH3/MeOH. The appropriate fractions were concentrated and dried under vacuum to obtain the title compound as a light brown oil (3.22 g).

reactant | 1-(1-methylethyl)piperazine | 46.8 mmol, 6 g | CC(C)N1CCNCC1 | C7H16N2
reactant | 5-chloro-1-pentyne | 46.8 mmol, 4.91 mL | ClCCCC#C | C5H7Cl
reactant | sodium bicarbonate | 46.8 mmol, 3.93 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 1-iso-Propyl-4-(pent-4-yn-1-yl)piperazine | 3.22 g | C(C)(C)N1CCN(CC1)CCCC#C | C12H22N2
